data/specific_train_final.csv
"C/[C:21]/1=[CH:20]\CCC(=C)[C@@H]2CC([C@H]2CC1)(C)C.[OH:10]>>C[C:21]1CC[C@H]2[C@@H](CC2(C)C)C(=C)CC[CH:20]1[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C(CO)C[O:21][O:20][O].[N+](=O)[O-]>>C(CO)C[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C([O:20][O:21][O])(Cl)(Cl)Cl>>C([O:20])(Cl)(Cl)Cl.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
[CH3:1][C:2]12[CH:13]=[CH:12][CH:10]([C:8]([C:5]1([CH3:7])[OH:6])([O:4][O:3]2)[CH3:9])[O:11].[N:15](=[O:16])[O:14]>>[CH3:1][C:2]12[CH:13]=[CH:12][CH:10]([C:8]([C:5]1([CH3:7])[OH:6])([O:4][O:3]2)[CH3:9])[O:11].[N+:15](=[O:16])[O-:14] 15-14,Room Temperature,Propagation,ha resonance
"CO[CH:10]CO.[O:20][O]>>CO[CH:10](CO)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC1=C(C2C(C([C:10]1O)OO2)O[N+](=O)[O-])C.[O:20][O]>>CCC1=C(C2C(C([C:10]1(O)[O:20][O])OO2)O[N+](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:7][CH:6]([CH2:8][CH2:9][OH:10])[O:5][O:4][O:3][N+:2](=[O:1])[O-:11]>>[CH3:7][CH:6]([CH2:8][CH2:9][OH:10])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:11] 3,2-3; 3,2-2",Room Temperature,Initiation,homolyze
"C[C:10](C1C(O1)(C)C=O)C(C(=O)C)O.[O:20][O]>>CC(=O)C([C:10](C)(C1C(O1)(C)C=O)[O:20][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC(CCl)(O[O:10])Cl>>[H:20][O:10]OC(C)(CCl)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C(C(Cl)Cl)([O:20][O:21]N=O)Cl>>C(C(Cl)Cl)([O:20])Cl.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[N:4](=[O:5])[O:3][O:2][O:1]>>[N:4](=[O:5])[O:3].[O:1][O:2] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"[CH3:1][CH:2]([CH3:3])[C:4]1=[CH:5][CH:6]=[CH:7][CH:8]=[C:9]1[OH:10].[OH:11]>>[CH3:1][CH:2]([CH3:3])[C:4]1=[CH:5][CH:6]=[CH:7][CH:8]([C:9]1[OH:10])[OH:11] 11-11,8; 9,8-11,8; 8,9-9",Room Temperature,Propagation,addition
"[H:20][C:21](=O)C1C(O1)/C=C\C(=O)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CC(=O)/C=C\C1C(O1)[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(COO[O:20][N+:21](=O)[O-])O[N+](=O)[O-]>>CC(C)(COO[O:20])O[N+](=O)[O-].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C(Cl)Cl)(O[O:20])Cl.[N+](=O)([O-])[O:10]>>C(C(Cl)Cl)(O[O:20][O:10][N+](=O)[O-])Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:10](C[O:20][N+:21](=O)[O-])C(COO)O>>C[C:10]1(C[O:20]1)C(COO)O.[N+:21](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC(OC(=O)C)[O:10][O:11][O:20][N+:21](=O)[O-]>>CC(OC(=O)C)[O:10][O:20][O:11].[N+:21](=O)[O-] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].C1CCC(C(C1)O)O[O:10]>>[H:20][O:10]OC1CCCCC1O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC1(C(O1)(C)C=C[C:10]=O)C=O.[O:20][O]>>CCC1(C(O1)(C)C=C[C:10](=O)[O:20][O])C=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH:21](C)CC(=O)CC.[OH:10]>>[H:20][OH:10].CCC(=O)C[CH:21]C 10-10,20;20,21-10,20;20,21-2",Room Temperature,Propagation,abstraction
"C(C(CCl)Cl)[O:21][O:20][O].[N+](=O)[O-]>>C(C(CCl)Cl)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C=CCOO[O:20][N+:21](=O)[O-])O>>C(C=CCOO[O:20])O.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
[CH3:6][CH:5]([CH3:7])[O:4][CH:3]([CH3:8])[CH2:2][O:1].[N:10](=[O:9])[O:11]>>[CH3:6][CH:5]([CH3:7])[O:4][CH:3]([CH3:8])[CH2:2][O:1].[N+:10](=[O:9])[O-:11] 10-11,Room Temperature,Propagation,ha resonance
"CC(COO[O:20][N+:21](=O)[O-])O>>CC(COO[O:20])O.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC[CH:20]=[CH2:21].[N+](=O)([O-])[O:10]>>CCCC[CH:20]([CH2:21])[O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][O:21][O].CC(CO[O:10])O[N+](=O)[O-]>>[H:20][O:10]OCC(C)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:20](=[CH:21]COO)CO[N+](=O)[O-].[OH:10]>>C[C:20](CO[N+](=O)[O-])([CH:21]COO)[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH3:4][C:3]1([CH:11]=[CH:12][CH:13]2[CH:16]([C:2]1([O:15][O:14]2)[CH3:1])[OH:17])[O:5][O:6][O:7][N+:8](=[O:10])[O-:9]>>[CH3:4][C:3]1([CH:11]=[CH:12][CH:13]2[CH:16]([C:2]1([O:15][O:14]2)[CH3:1])[OH:17])[O:5][O:6][O:7].[N+:8](=[O:10])[O-:9] 7,8-8; 7,8-7",Room Temperature,Initiation,homolyze
"CC1(CC2C1CCC(C(CCC2=C)O[N+](=O)[O-])(C)[O:20][O:21][O])C.[N+](=O)[O-]>>CC1(CC2C1CCC(C(CCC2=C)O[N+](=O)[O-])(C)[O:20])C.[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C)O[O:20].[N:10]=O>>CCC(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC1=C(C=C([CH:21]=[CH:20]1)C)O.[N+](=O)([O-])[O:10]>>CCC1=C(C=C([CH:21][CH:20]1[O:10][N+](=O)[O-])C)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
